US04777252
(B) 1,2,3,4-Tetrahydro-6,7-dihydroxy-3-isoquinolinecarboxylic acid, methyl ester, hydrochloride
At 40° C., a steam of gaseous hydrogen chloride was bubbled through a solution of 1,2,3,4-tetrahydro-6,7-dihydroxy-3-isoquinolinecarboxylic acid (32.4 g, 155.0 mmol) in 1.5 l of methanol for 2 hours. After stirring overnight at room temperature, the solvent was distilled off in vacuo and the residue triturated with ether to furnish 38.95 g of the product. Melting point 204.8° C.

reactant | hydrogen chloride | Cl | ClH
reactant | 1,2,3,4-tetrahydro-6,7-dihydroxy-3-isoquinolinecarboxylic acid | 155.0 mmol, 32.4 g | OC=1C=C2CC(NCC2=CC1O)C(=O)O | C10H11NO4
reactant | methanol | 1.5 l | CO | CH4O
product | 1,2,3,4-Tetrahydro-6,7-dihydroxy-3-isoquinolinecarboxylic acid, methyl ester, hydrochloride | 38.95 g | Cl.OC=1C=C2CC(NCC2=CC1O)C(=O)OC | InChI=1S/C11H13NO4.ClH/c1-16-11(15)8-2-6-3-9(13)10(14)4-7(6)5-12-8;/h3-4,8,12-14H,2,5H2,1H3;1H
